Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with history of 
schizophrenia with most recent ED visit ___, COPD, DM, 
mechanical falls most recently in ___ and s/p negative 
syncope workup in ___, history of urinary retention s/p 
indwelling foley in ___, admission in ___ for sepsis 
from pneumonia, presenting with complaints of fever and altered 
mental status.

___ presented to the ED from his group home after reportedly 
being febrile yesterday. The group home care staff changed his 
foley yesterday and noted that he his mental status was altered 
this morning.

Seen in ___ on ___ by Dr. ___ 
for evaluation of need for chronic foley which was placed in 
late ___ after ___ presented to the ED after a fall and 
was found to be in ___ (prior to this, he had no problems 
voiding) and have obstructive uropathy. Noted to have a 
hypersensitive bladder with normal compliance, terminal detrusor 
overactivity, no obstruction, and was able to empty bladder 
completely despite over activity. The plan was to leave the 
foley catheter out and monitor PVRs ___ times daily with foley 
re-insertion if PVR>400-450cc and to continue tamsulosin.

In the ED, initial vital signs were: T99.1 HR112 BP91/58 RR16 
SaO2 95% on RA
- Exam notable for: lethargy, arousable only to pain, oriented 
x1
- Labs were notable for: 
1) Chem 10 -
134|94|28
---------<159
4.2|20|1.5
2) CBC - 27.3>10.5/32.5<376
Diff - 85.6%, 4.5%, Monos 8.7%
3) LFTs - ALP 167 (ALT 5, AST 14, Tbili 0.5, Alb 3.8)
4) U/A - hazy appearance with large leuks (WBC>182), small 
amount of blood (RBC>10), Few bacteria, Negative Nitrites, 30 
Proteins
5) FluAPCR and FluBPCR - negative
6) Lactate - 1.6
7) Blood cx - pnd
8) Urine cx - pnd
- Studies performed include:
1) CT C-spine w/o contrast: No acute fracture or malalignment of 
the cervical spine. 
2) NCHCT: No acute intracranial process
3) CXR: No acute cardiopulmonary process. No focal consolidation 
to suggest pneumonia. 
- Patient was given:
1) IV NS 
2) Ceftriaxone 2 gm
- Vitals on transfer: 
___, 99.2F, HR111(106-113), BP135/67 (91-135/55-67), RR25 
(___), SaO2 100% on RA

Upon arrival to the floor, the patient was somnolent but 
arousable, oriented to name only. History could not be completed 
as patient could not answer questions.   
 
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) chills, night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, shortness of breath, chest pain, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 
Past Medical History:
1. Paranoid schizophrenia, well-controlled on Clozaril  
- Previous auditory and visual hallucinations, none "for awhile"
per patient
2. Mechanical falls with negative syncope workup (___)
3. T2DM (last HbA1c 7.1 in ___
4. COPD (last FEV1 unknown)
5. GERD/Reflux Esophagitis
6. CAD
7. HTN
8. Hyperlipidemia
 
Social History:
___
Family History:
Unknown to patient
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 98.9, 109bpm, BP129/66, RR18, SaO2 96% on RA
GENERAL: A&Ox1 (name only), somnolent, responsive to voice and 
gentle touch but quickly falls asleep, unable to answer 
questions comprehensibly
HEENT: Normocephalic, atraumatic.  Pupils equal (3mm), round, 
and unreactive bilaterally.  No conjunctival pallor or 
injection, sclera anicteric and without injection.  Moist mucous 
membranes, good dentition.  Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales. 

BACK: Skin. no spinous process tenderness. no CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants though difficult to assess 
given patient's altered sensorium. Tympanic to percussion.  No 
organomegaly. well-healed mid-line incision measuring ___ inches
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: could not complete due to lack of patient 
cooperation

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.0PO, Tmax 98.1, 156/79 (149-156/79-87), 83 (71-85), 18, 
SaO2 95% on RA 
GENERAL: A&Ox2 (name and place), able to engage in conversation 
and keep eyes open
HEENT: Normocephalic, atraumatic.  Pupils equal (3mm), round, 
and unreactive bilaterally.  No conjunctival pallor or 
injection, sclera anicteric and without injection.  Moist mucous 
membranes, good dentition.  Oropharynx is clear.
NECK: Thyroid is normal in size and texture, no nodules.  No 
cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
No JVD.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields.  No wheezes, rhonchi or rales. 

BACK: Skin. no spinous process tenderness. no CVA tenderness. 
ABDOMEN:  Normal bowels sounds, soft, non-tender/non-distended. 
Tympanic to percussion.  No organomegaly. well-healed mid-line 
incision measuring ___ inches
EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy
NEUROLOGIC: could not complete due to lack of patient 
cooperation

 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:54PM   PLT SMR-NORMAL PLT COUNT-376
___ 12:54PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 12:54PM   NEUTS-85.6* LYMPHS-4.5* MONOS-8.7 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-23.37*# AbsLymp-1.23 AbsMono-2.36* 
AbsEos-0.00* AbsBaso-0.05
___ 12:54PM   WBC-27.3*# RBC-3.75* HGB-10.5* HCT-32.5* 
MCV-87 MCH-28.0 MCHC-32.3 RDW-14.2 RDWSD-44.6
___ 12:54PM   ALBUMIN-3.8
___ 12:54PM   ALT(SGPT)-5 AST(SGOT)-14 ALK PHOS-167* TOT 
BILI-0.5
___ 12:54PM   estGFR-Using this
___ 12:54PM   GLUCOSE-159* UREA N-28* CREAT-1.5* SODIUM-134 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-20* ANION GAP-24*
___ 01:19PM   LACTATE-1.6
___ 01:53PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:00PM URINE  MUCOUS-RARE
___ 03:00PM URINE  HYALINE-4*
___ 03:00PM URINE  RBC-10* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-<1
___ 03:00PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG
___ 03:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
oxycodn-NEG
___ 03:00PM URINE  UHOLD-HOLD
___ 03:00PM URINE  HOURS-RANDOM
___ 09:32PM   PLT COUNT-334
___ 09:32PM   WBC-19.8* RBC-3.39* HGB-9.4* HCT-29.7* MCV-88 
MCH-27.7 MCHC-31.6* RDW-14.5 RDWSD-46.8*
___ 09:32PM   GLUCOSE-123* UREA N-24* CREAT-1.2 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-101 TOTAL CO2-21* ANION GAP-21*

DISCHARGE/PERTINENT LABS:
=========================
___ 07:05AM BLOOD WBC-8.9 RBC-3.32* Hgb-9.2* Hct-27.7* 
MCV-83 MCH-27.7 MCHC-33.2 RDW-13.9 RDWSD-42.4 Plt ___
___ 07:05AM BLOOD Glucose-118* UreaN-6 Creat-0.6 Na-140 
K-3.5 Cl-101 HCO3-24 AnGap-19
___ 07:00AM BLOOD ___ PTT-35.2 ___
___ 07:00AM BLOOD ALT-6 AST-14 LD(LDH)-176 AlkPhos-127 
TotBili-0.4
___ 07:05AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.7

MICROBIOLOGY:
==============
___ 3:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    10,000-100,000 CFU/mL. 
         Fosfomycin Susceptibility testing requested by ___. ___ 
___
         (___) ON ___.  FOSFOMYCIN = 24MM = SUSCEPTIBLE. 
         FOSFOMYCIN sensitivity testing performed by ___ 
___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------     8 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING:
========
___ Imaging ABDOMEN (SUPINE & ERECT)
Nonobstructive bowel gas pattern in the stomach, small bowel and 
colon.  No evidence of pneumoperitoneum. 

___ Imaging CHEST (SINGLE VIEW)
No acute cardiopulmonary process.  No focal consolidation to 
suggest 
pneumonia. 
      
___-SPINE W/O CONTRAST
No acute fracture or malalignment of the cervical spine.

___ Imaging CT HEAD W/O CONTRAST 
No acute intracranial process.
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of paranoid 
schizophrenia, COPD, Type 2 DM, urinary retention s/p indwelling 
foley catheter placement in ___, who presented from his 
group home with report of 1 day of fever prior to admission and 
altered mental status on the day of presentation to the ED 
(___). 

# Altered mental status/catheter associated urinary tract 
infection:
Patient hemodynamically stable on admission, but drowsy and not 
oriented. Afebrile, but WBC count of 27. Urinalysis consistent 
with infection in the setting of indwelling foley catheter. Head 
and neck imaging without acute abnormalities. He was without 
headaches, photophobia, or neck stiffness to suggest 
meningoencephalitis. Patient initially started on ceftriaxone; 
however, urine culture revealed ESBL E. coli resistant to 
ceftriaxone. Patient switched to meropenem, which he received 
from ___ to ___. Patient was switched to fosfomycin (1 dose) 
on discharge to complete a full antibiotic course. Foley 
catheter was replaced.

# Acute kidney injury:
Patient also noted to have acute kidney injury with Cr 1.5, 
likely prerenal in etiology, that resolved with IV fluids. Cr on 
discharge 1.0.

# Paranoid schizophrenia:
Patient's clozapine was held on admission, given altered mental 
status. He was seen by the psychiatry service for assistance 
with management. Clozapine was resumed at the suggestion of 
psychiatry at 100mg PO QHS, with plan for outpatient uptitration 
by primary psychiatrist.

# Normocytic anemia: 
He was found to have Hgb of 8.8-10.5 as compared to most recent 
baseline of 11.8. He was without signs of overt bleeding. There 
was low suspicion for hemolysis in the setting of normal TBili 
and lack of schistocytes on manual smear.

# Abdominal pain:
He experienced transient abdominal pain with benign abdomen, 
possibly related to urinary tract infection, though not 
specifically suprapubic. KUB was without signs of obstruction or 
perforation. Abdominal pain resolved prior to discharge.

# T2DM
He received long-acting insulin with sliding scale as needed. 
Home metformin was held throughout admission and resumed at 
discharge.

# COPD
Home fluticasone and tiotropium inhaler were held throughout 
admission and resumed at discharge.

# GERD/Reflux esophagitis
He received omeprazole in place of home ranitidine in the 
inpatient setting.

# CAD
Home ASA was continued.

# Hyperlipidemia
Home gemfibrozil was held throughout admission and resumed at 
discharge.

# Orthostatic hypotension 
Home fludrocortisone was continued.

TRANSITIONAL ISSUES:
====================
# Patient's clozapine was stopped on admission and restarted at 
100mg PO QHS by recommendation from psychiatry. Patient should 
follow up with outpatient psychiatrist for uptitration.
# Patient was found to have anemia with Hgb of 9.2. He should 
have a follow-up CBC with differential within 1 week and should 
be worked-up for iron-deficiency or other causes anemia if not 
improved; downtrending monocyte count, likely elevated on 
admission in the setting of infection, also should be ensured.
# Follow-up of coagulation studies to ensure downtrending INR 
(elevated to 1.4 on this admission likely in the setting of 
infection and poor PO intake, without overt signs of DIC) also 
advised.
# Patient found to have 10 RBC on urinalysis on this admission, 
likely in the setting of urinary tract infection; please assess 
for resolution of hematuria following resolution of urinary 
tract infection, though may be confounded if ongoing foley 
catheter needed.
# Patient should follow up with urology for foley catheter care 
and to assess whether ongoing foley catheter is needed. 
Appointment was made for ___.

# CODE: Full
# CONTACT: ___ (___) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.1 mg PO DAILY hypotension 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Aspirin 81 mg PO DAILY 
4. Clozapine 200 mg PO BID 
5. Clozapine 75 mg PO QHS 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Gemfibrozil 600 mg PO BID 
9. Levemir (insulin detemir) 32 units  subcutaneous BREAKFAST 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. Ranitidine 150 mg PO BID 
12. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Medications:
1.  Clozapine 100 mg PO QHS  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Aspirin 81 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  Fludrocortisone Acetate 0.1 mg PO DAILY hypotension  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Gemfibrozil 600 mg PO BID  
8.  Levemir (insulin detemir) 32 units  subcutaneous BREAKFAST  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  Ranitidine 150 mg PO BID  
11.  Tiotropium Bromide 1 CAP IH DAILY  
12. HELD- Clozapine 200 mg PO BID  This medication was held. Do 
not restart Clozapine until until you see your psychiatrist

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
==================
Toxic Metabolic Encephalopathy
Catheter-associated UTI
Acute Kidney Injury

SECONDARY DIAGNOSES:
====================
Paranoid Schizophrenia
Type 2 Diabetes
COPD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you were confused 
and had a fever. You were found to have a urinary tract 
infection and you were started on IV antibiotics and your mental 
status improved significantly. Your Clozaril was also stopped 
and restarted at a lower dose because of your confusion.

You should follow-up with your PCP and outpatient psychiatrist 
within ___ weeks of discharge.

Wishing you a speedy recovery,
___ Care Team
 
Followup Instructions:
___